US04430346
Into 6.5 ml of dimethylformamide, was dissolved 603 mg of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by the addition of 0.82 ml of pyridine and 9.9 g of n-decanoic anhydride. The solution was stirred with heating at 60° C. for 48 hours. The reaction mixture was diluted with 20 ml of ice water, left standing for 30 minutes, and treated as in Example 8 to obtain 3.12 mg of (S)-7-guanidino-3-decanoyloxyheptanamide hydrochloride in oily form. NMR: 6.88 (CH3), 1.1-1.9 (CH2 x10), 2.28 (COCH2), 2.46 (CH2), 3.16 (CH2), 5.22 (CH).

reactant | dimethylformamide | 6.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 603 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | n-decanoic anhydride | 9.9 g | C(CCCCCCCCC)(=O)OC(CCCCCCCCC)=O | C20H38O3
solvent | pyridine | 0.82 ml | N1=CC=CC=C1 | C5H5N
product | (S)-7-guanidino-3-decanoyloxyheptanamide hydrochloride | 3.12 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(CCCCCCCCC)=O | InChI=1S/C18H36N4O3.ClH/c1-2-3-4-5-6-7-8-12-17(24)25-15(14-16(19)23)11-9-10-13-22-18(20)21;/h15H,2-14H2,1H3,(H2,19,23)(H4,20,21,22);1H/t15-;/m0./s1
